US04282242
5-(3,5-Dichlorophenylthio)pyrrole-3-carboxylic Acid
Methyl 5-(3,5-dichlorophenylthio)pyrrole-3-carboxylate (2.5 g.) was combined with 25 ml. of methanol and 25 ml. of 1 N sodium hydroxide and refluxed for 3 hours. The methanol was allowed to evaporate, the aqueous residue diluted with approximately one volume of water and washed twice with ether. The aqueous phase was acidified with conc. hydrochloric acid and the product extracted into ethyl acetate. The two ethyl acetate extracts were combined, washed with saturated brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to crude product (1.84 g., m.p. 169°-172° C.). Recrystallization from chloroform afforded purified 5-(3,5-dichlorophenylthio)-pyrrole-3-carboxylic acid (1.3 g., m.p. 175°-177° C.).

reactant | Methyl 5-(3,5-dichlorophenylthio)pyrrole-3-carboxylate | 2.5 g | ClC=1C=C(C=C(C1)Cl)SC1=CC(=CN1)C(=O)OC | C12H9Cl2NO2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(3,5-Dichlorophenylthio)pyrrole-3-carboxylic Acid | ClC=1C=C(C=C(C1)Cl)SC1=CC(=CN1)C(=O)O | C11H7Cl2NO2S
